US06509333B2
Step 2: Preparation of benzyl 8-bromo-5-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-ylcarbamate
Under an argon atmosphere 1H-1,2,3-benzotriazol-1-yl{[(benzyloxy)carbonyl]amino}acetic acid (6.71 g, 20.6 mmol) was suspended in anhydrous methylene chloride (92 ml) and cooled to 0° C. in an ice bath. Oxalyl chloride (2.61 g, 20.6 mmol), then N,N-dimethylformamide (38 ml) were added dropwise to the suspension. The reaction mixture was stirred at 0° C. in an ice bath for 30 minutes, at which point no further gas evolution was noted. Then a solution of 1-(2-amino-4-bromophenyl)ethanone (4.0 g, 18.7 mmol) and 4-methylmorpholine (2.84 g, 28.0 mmol) in anhydrous methylene chloride (60 ml) was added dropwise. The reaction mixture was allowed to warm to room temperature over 12 hours, then quenched with water (200 ml), and extracted with ethyl acetate (3×250 ml). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated to give a semi-solid which was dissolved in tetrahydrofuran (120 ml) and methyl alcohol (35 ml). Ammonia gas was bubbled through this solution for 2.5 hours. The reaction was then concentrated to a viscous light brown oil. The oil was dissolved in acetic acid (120 ml) and ammonium acetate (4.3 g, 56.1 mmol) was added in one portion and stirred for 12 hours. The reaction mixture was diluted with water (100 ml) and then made basic (pH=10) with 25% sodium hydroxide, while stirring in an ice bath. The aqueous solution was then extracted with ethyl acetate (3×500 ml) and the organic layers combined, dried over magnesium sulfate, filtered and concentrated. The resulting residue was purified on silica gel, eluting with 40% ethyl acetate in hexanes to give the title compound (4 g, 53%). 1H NMR (CDCl3, 300 MHz): δ 9.90 (s-br, 1H), 7.42-7.31 (m, 6H), 7.12 (d, 1H, 1.5 Hz), 7.06-7.03 (m, 1H), 5.18-5.08 (m, 3H), 2.50 (s, 3H) ppm.

reactant | 1H-1,2,3-benzotriazol-1-yl{[(benzyloxy)carbonyl]amino}acetic acid | 20.6 mmol, 6.71 g | N1(N=NC2=C1C=CC=C2)C(C(=O)O)NC(=O)OCC2=CC=CC=C2 | C16H14N4O4
reactant | Oxalyl chloride | 20.6 mmol, 2.61 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(2-amino-4-bromophenyl)ethanone | 18.7 mmol, 4.0 g | NC1=C(C=CC(=C1)Br)C(C)=O | C8H8BrNO
reactant | 4-methylmorpholine | 28.0 mmol, 2.84 g | CN1CCOCC1 | C5H11NO
reactant | ammonium acetate | 56.1 mmol, 4.3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 92 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | methyl alcohol | 35 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | benzyl 8-bromo-5-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-ylcarbamate | 4 g, 53% | BrC1=CC2=C(C(=NC(C(N2)=O)NC(OCC2=CC=CC=C2)=O)C)C=C1 | C18H16BrN3O3
